US06455720B1
(1) Synthesis of 1,1-Bis(4-dimethylaminophenyl)propene
Into a reactor was introduced 102 mL (82.0 mmol; 0.80 M THF solution) of ethylmagnesium bromide under a nitrogen atmosphere. The contents were cooled to 0° C. Thereto was gradually added dropwise a solution prepared by mixing 20.0 g (74.5 mmol) of 4,4′-bis(dimethylamino)benzophenone and 40 mL of THF. This mixture was stirred at room temperature for 5 hours. Saturated aqueous ammonium chloride solution was added to the resultant reaction mixture, and the metal salt yielded was removed by Celite filtration. The organic layer was separated from the filtrate and then extracted with toluene. Thereafter, the solvent was removed under reduced pressure. The concentrate was dissolved in 150 mL of toluene, and 0.1 g of p-toluenesulfonic acid monohydrate was added thereto. Azeotropic dehydration was conducted with toluene refluxing. After being cooled, the reaction mixture was washed with saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium chloride solution, subsequently dried with anhydrous magnesium sulfate, and then concentrated under reduced pressure. This concentrate was purified by column chromatography to obtain 13.6 g (65%) of light-yellow crystals. 1H-NMR (CDCl3) δ 1.77 (d, J=7.0 Hz, 3H), 2.92 (s, 6H), 2.98 (s, 6H), 5.94 (q, J=7.0 Hz, 1H), 6.58-6.79 (m, 4H), 7.02-7.18 (m, 4H).

reactant | ethylmagnesium bromide | 82.0 mmol, 0.80 M, 102 mL | C(C)[Mg]Br
reactant | 4,4′-bis(dimethylamino)benzophenone | 74.5 mmol, 20.0 g | CN(C1=CC=C(C(=O)C2=CC=C(C=C2)N(C)C)C=C1)C | C17H20N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1,1-Bis(4-dimethylaminophenyl)propene | 13.6 g, 65% | CN(C1=CC=C(C=C1)C(=CC)C1=CC=C(C=C1)N(C)C)C | C19H24N2
